US08053456B2
A tube was charged with 5-(2,4-bismethoxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-amine (0.25 mmol, 100 mg.), 6-bromoquinoline (0.5 mmol, 100 mg.), tris(dibenzylideneacetone) dipalladium(0), (10 mol %), cesium carbonate (1 mmol, 326 mg.), Xantphos (20 mol %), and dioxane (2 mL). The reaction is place under an atmosphere of nitrogen, and heated to 95° C. for 16 hours. The crude mixture is run directly down a silica gel column for purification, giving N-(5-(5-isopropyl-2,4-dimethoxyphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)quinolin-6-amine (114 mg.)

reactant | 5-(2,4-bismethoxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-amine | 0.25 mmol, 100 mg | COC1=C(C=C(C(=C1)OC)C(C)C)C=1N(C(=NN1)N)C=1C=C2C=CN(C2=CC1)C | C22H25N5O2
reactant | 6-bromoquinoline | 0.5 mmol, 100 mg | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | cesium carbonate | 1 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | tris(dibenzylideneacetone) dipalladium(0) | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(5-(5-isopropyl-2,4-dimethoxyphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)quinolin-6-amine | 114 mg | C(C)(C)C=1C(=CC(=C(C1)C=1N(C(=NN1)NC=1C=C2C=CC=NC2=CC1)C=1C=C2C=CN(C2=CC1)C)OC)OC | C31H30N6O2
